US04591600
1e. Synthesis of 3-cyclohexyloxy-5,7,3',4'-tetrahydroxyflavone
27 g of 3',4'-dibenzyloxy-5,7-dihydroxy-3-cyclohexyloxyflavone, 500 cc of acetone, 500 cc of methyl alcohol, 8 spatulas of palladium on 5% BaSO4 are introduced in a 2-liter round-bottom flask. The mixture is stirred under an hydrogen atmosphere for 3 hours. The reaction is followed with thin-layer chromatography. After filtering on millipores, the solution is evaporated. Yield 98%.

reactant | 3',4'-dibenzyloxy-5,7-dihydroxy-3-cyclohexyloxyflavone | 27 g | C(C1=CC=CC=C1)OC=1C=C(C=2OC3=CC(=CC(=C3C(C2OC2CCCCC2)=O)O)O)C=CC1OCC1=CC=CC=C1 | C35H32O7
reactant | acetone | 500 cc | CC(=O)C | C3H6O
reactant | BaSO4 | [O-]S(=O)(=O)[O-].[Ba+2]
catalyst | palladium | [Pd] | Pd
solvent | methyl alcohol | 500 cc | CO | CH4O
product | 3-cyclohexyloxy-5,7,3',4'-tetrahydroxyflavone | Yield 98% | C1(CCCCC1)OC1=C(OC2=CC(=CC(=C2C1=O)O)O)C1=CC(=C(C=C1)O)O | C21H20O7
